US09120777B2
A) Methyl 2′,4′-difluoro-3-isopropoxybiphenyl-4-carboxylate
A mixture of methyl 4-iodo-2-isopropoxybenzoate (4.10 g), (2,4-difluorophenyl)boronic acid (4.04 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (0.789 g), a 2 M aqueous sodium carbonate solution (19.2 mL), tris(dibenzylideneacetone)dipalladium(0) (0.821 g), and toluene (50 mL) was stirred at 100 C for 2 hours. The reaction mixture was poured to water at room temperature, and the mixture was passed through celite, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and passed through a short silica gel (NH) column, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (3.90 g)

reactant | methyl 4-iodo-2-isopropoxybenzoate | 4.10 g | IC1=CC(=C(C(=O)OC)C=C1)OC(C)C | C11H13IO3
reactant | (2,4-difluorophenyl)boronic acid | 4.04 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.789 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 19.2 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.821 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2′,4′-difluoro-3-isopropoxybiphenyl-4-carboxylate | 3.90 g | FC1=C(C=CC(=C1)F)C1=CC(=C(C=C1)C(=O)OC)OC(C)C | C17H16F2O3
